US07678810B2
Potassium carbonate (29.7 g) was added to a solution of 6-trimethylsilanylethynylbenzothiazol (45.1 g) in methanol (600 ml), and the mixture was stirred for 1.5 hours at room temperature. The reaction solution was filtered, and then the resultant was washed with methanol and ethyl acetate successively. The filtrate was concentrated, to which water was added, and then extracted with ethyl acetate. The organic layer, which was washed with a brine, was dried over anhydrous magnesium sulfate. After the solvent was evaporated, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1→1:1) to yield 6-ethynylbenzothiazole (30.0 g) as a light yellow solid (mp: 47.5-49.0° C.).

reactant | Potassium carbonate | 29.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-trimethylsilanylethynylbenzothiazol | 45.1 g | C[Si](C)(C)C#CC1=CC2=C(N=CS2)C=C1 | C12H13NSSi
solvent | methanol | 600 ml | CO | CH4O
product | 6-ethynylbenzothiazole | 30.0 g | C(#C)C1=CC2=C(N=CS2)C=C1 | C9H5NS
